US05354758
To a solution of 3.02M of benzylmagnesium chloride (2M solution) in THF was added portionwise 300 g (20 g portions) of 1,3,4-trimethylpyridinium iodide. The reaction mixture was stirred at room temperature for 18 hrs. The THF was evaporated at reduced pressure, and the resulting residue was poured into iced saturated NH4Cl. The mixture was extracted with ether and the ether solution washed with additional saturated NH4Cl. The ether solution was dried over magnesium sulfate and evaporated to dryness at reduced pressure to afford 338 g of crude 2-benzyl-1,3,4-trimethyl-1,2-dihydropyridine.

reactant | benzylmagnesium chloride | 3.02M | C(C1=CC=CC=C1)[Mg]Cl
reactant | 1,3,4-trimethylpyridinium iodide | 300 g | [I-].C[N+]1=CC(=C(C=C1)C)C
solvent | THF | C1CCOC1 | C4H8O
product | 2-benzyl-1,3,4-trimethyl-1,2-dihydropyridine | 338 g | C(C1=CC=CC=C1)C1N(C=CC(=C1C)C)C | C15H19N
